US07470699B2
Preparation of 2-Ethoxy-1-{4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-ethanone (Compound C163)
Mixture of 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine (76 mg, 0.2 mmole), 2-ethoxyacetic acid (0.26 mmole, 1.3 eq), HATU (0.26 mmole, 1.3 eq), and TEA (0.4 mmole, 2 eq) in 2 mL THF was heated under microwave irradiation at 120° C. for 30 minutes. Mixture was purified by HPLC to give compound C163 as a white solid (55 mg, 59%). 1H NMR (CDCl3, 400 MHz) δ 1.25 (t, 3H), 1.86-1.90 (m, 2H), 2.01-2.09 (m, 2H), 2.22 (s, 3H), 3.10 (s, 3H), 3.51-3.69 (m, 2H), 3.59 (q, 2H), 3.76-3.87 (m, 2H), 4.21 (s, 2H), 5.41-5.44 (m, 1H), 7.43 (t, 1H), 7.78-7.82 (m, 2H), 8.21 (s, 1H). Exact mass calculated for C21H26FN3O6S 467.2, found 468.5 (MH+).

reactant | 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine | 0.2 mmole, 76 mg | FC1=C(OC2=NC=NC(=C2C)OC2CCNCC2)C=CC(=C1)S(=O)(=O)C | C17H20FN3O4S
reactant | 2-ethoxyacetic acid | 0.26 mmole, 1.3 eq | C(C)OCC(=O)O | C4H8O3
reactant | HATU | 0.26 mmole, 1.3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Ethoxy-1-{4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-ethanone | 55 mg, 59% | C(C)OCC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C21H26FN3O6S
